US04107307
3-[(2-tert-Butyl-5-methyl-4-imidazolyl)methylene]carbazic acid ethyl ester
A 6.17 gm. portion of 2-tert-butyl-5-methyl-4-imidazolecarboxaldehyde and 4.20 gm. of ethyl carbazate are reacted as described in Example 32 giving the desired product, m.p. 226°-228.5° C.

reactant | 2-tert-butyl-5-methyl-4-imidazolecarboxaldehyde | C(C)(C)(C)C=1NC(=C(N1)C=O)C | C9H14N2O
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
product | 3-[(2-tert-Butyl-5-methyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1C)C(C)(C)C)=O | C12H20N4O2
